US05410038
Another method is described in, for example, "N. K. Richtmyer, C. S. Hudson, J, Am. Chem. Soc., 57, 1716 (1935)". In this method, the 2- and 3-positions of the D-glucose portion included in lactose are subjected to walden inversion so as to obtain neolactose consisting of D-altrose and D-galactose, followed by hydrolyzing neolactose so as to obtain the desired D-altrose product. The D-galactose contained in the mixture obtained after the hydrolysis is consumed by allowing yeast to act thereon and, thus, is removed. The remaining D-altrose is refined as a benzyl mercaptal derivative and, then, returned to D-altrose. It should be noted that this method necessitates a step of protecting the hydroxyl group which is irrelevant to the reaction and another step of releasing the protective group after the reaction. It follows that as many as eight steps are involved in this method starting with the Walden inversion of lactose. Naturally, troublesome operations are required for synthesizing the product D-altrose. In addition, the product yield is as low as only 8%.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
product | neolactose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@H]([C@@H](C=O)O)O)O)O)O)O | C12H22O11
